### PR TITLE
Add Erdős Problem 925 (independence number of non-Ramsey graphs for K_3), link the formal proof

### LINKED ISSUE #6400: Erdős Problem 925
### What is the Erdős problem?

https://www.erdosproblems.com/925

Is there a constant $\delta>0$ such that, for all large $n$, if $G$ is a graph on $n$ vertices which is not Ramsey for $K_3$ (i.e. there exists a 2-colouring of the edges of $G$ with no monochromatic triangle) then $G$ contains an independent set of size $\gg n^{1/3+\delta}$?

Status: disproved (Alon–Rödl [AlRo05]). A formal proof exists in plby/lean-proofs (`Erdos925.not_erdos_925`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6400.

### What changed
Adds `FormalConjectures/ErdosProblems/925.lean` with `IsNotRamseyForTriangle G` (a 2-colouring of `G` with no monochromatic triangle):
- `erdos_925` (`research solved`, `answer(False)`): no `δ > 0` guarantees independent sets of size `≫ n^{1/3+δ}` in graphs which are not Ramsey for `K_3`; equivalently `R(3,3,m) ≪ m^{3-c}` fails (Alon–Rödl [AlRo05]). Linked to plby/lean-proofs `Erdos925.not_erdos_925` (Codex and GPT-5.6 Sol; 32 Mathlib-only files, building on the Erdős 920 construction).
- Sorry'd textbook variant: the easy `≫ n^{1/3}` bound.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos925.not_erdos_925` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of renamed copies, same axioms:

<details>
<summary>Bridge</summary>

```lean
open Filter SimpleGraph

namespace Bridge925

theorem erdos_925_bridge : type_of% Erdos925.erdos_925 := by
  show False ↔ _
  simp only [false_iff]
  rintro ⟨δ, hδ, c, hc, h⟩
  obtain ⟨N, hN⟩ := eventually_atTop.1 h
  exact Erdos925Plby.not_erdos_925 ⟨δ, c, hδ, hc, N, fun n G hn hG => hN n hn G hG⟩

#print axioms Erdos925Plby.not_erdos_925
#print axioms erdos_925_bridge

end Bridge925
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«925»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/925.lean [hunk 1]
```diff
@@ -0,0 +1,67 @@
...
+
+open Filter SimpleGraph
+
+namespace Erdos925
+
+/-- `G` is not Ramsey for $K_3$: there is a $2$-colouring of the edges of `G` (a decomposition
+`G = red ⊔ blue` into edge-disjoint graphs) with no monochromatic triangle. -/
+def IsNotRamseyForTriangle {V : Type*} (G : SimpleGraph V) : Prop :=
+  ∃ red blue : SimpleGraph V, Disjoint red blue ∧ red ⊔ blue = G ∧
+    red.CliqueFree 3 ∧ blue.CliqueFree 3
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/925.lean:41]: IsNotRamseyForTriangle is the third ad hoc encoding of G → (K₃,K₃)ᵉ (582.lean, [#6352](https://github.com/google-deepmind/formal-conjectures/pull/6352)), let's re-use what we already have?

File: FormalConjectures/ErdosProblems/925.lean [hunk 2]
```diff
@@ -0,0 +1,67 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/925.lean:2]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```
